US04005143
112 g (0.529 mol) of 2,4-dinitrophenetole were hydrogenated, in a 700 ml stirred autoclave, in 300 ml of o-toluidine with 15 g of water-moist palladium catalyst (0.5% by weight of palladium on charcoal), corresponding to 6 g of dry catalyst, at a temperature of about 80° C and a hydrogen pressure of between 5 and 10 bars. After 31/2 hours, the hydrogen absorption and the reaction had ended. After filtering off the catalyst, the solvent and the water of reaction formed were distilled off under normal pressure and the residue which remained was then fractionally distilled in vacuo. 71.7 g (89.3% of theory) of 2,4-diaminophenetole of solidification point 64.2° C were obtained in the boiling range of 150° - 180° C/5 mm Hg. 4.5 g of a higher-boiling residue remained.

reactant | 2,4-dinitrophenetole | 0.529 mol, 112 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OCC | C8H8N2O5
reactant | hydrogen | [H][H] | H2
solvent | o-toluidine | 300 ml | NC=1C(=CC=CC1)C | C7H9N
catalyst | water | 15 g | O | H2O
product | 2,4-diaminophenetole | 71.7 g, 89.3% | NC1=C(C=CC(=C1)N)OCC | C8H12N2O
